US04497817
To 50 ml of ethanol were added 500 mg of 7-amino-2-phenylimidazo[2,1-b]benzothiazole, 265 mg of methyl iodide and 260 mg of potassium carbonate anhydride and while stirring vigorously, the mixture was refluxed for 2 days. The reaction mixture was cooled and then concentrated under reduced pressure. The residue was extracted with 50 ml of ethyl acetate and the extract was washed with water, dried with anhydrous magnesium sulfate, and then the extract was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (eluant: toluene:ethyl acetate=4:1) and the obtained crystals were recrystallized from toluene to provide 50 mg of 7-methylamino-2-phenylimidazo-[2,1-b]benzothiazole.

reactant | 7-amino-2-phenylimidazo[2,1-b]benzothiazole | 500 mg | NC1=CC2=C(N3C(S2)=NC(=C3)C3=CC=CC=C3)C=C1 | C15H11N3S
reactant | methyl iodide | 265 mg | CI | CH3I
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-methylamino-2-phenylimidazo-[2,1-b]benzothiazole | 50 mg | CNC1=CC2=C(N3C(S2)=NC(=C3)C3=CC=CC=C3)C=C1 | C16H13N3S
